US08404672B2
A solution of ethyl 5-(pyridin-2-yl)isoxazole-3-carboxylate (212 mg, 0.972 mmol) and N-bromosuccinimide (432 mg, 2.43 mmol) in trifluoroacetic acid (6 mL) was heated to 150° C. for 30 minutes via microwave. Concentration under reduced pressure afforded a yellow oil which was diluted with ethyl acetate (80 mL), washed with a saturated aqueous solution of sodium bicarbonate (20 mL), washed with brine (20 mL), and dried over anhydrous sodium sulfate. Concentration under reduced pressure followed by purification by flash silica gel chromatography using a 1:3 mixture ethyl acetate and hexane afforded ethyl 4-bromo-5-(pyridin-2-yl)isoxazole-3-carboxylate (0.217 g, 0.672 mmol, 69% yield). The product had an HPLC retention. time=2.65 min.—Column: YMC S5 COMBISCREEN® 4.6×50 mm (4 min.); Solvent A=10% MeOH, 90% H2O, 0.1% TFA; Solvent B=90% MeOH, 10% H2O, 0.1% TFA. LC/MS M+1=299.02. 1H NMR (400 MHz, CDCl3) δ ppm 1.48 (t, J=7.15 Hz, 3H), 4.52 (q, J=7.28 Hz, 2H), 7.43-7.48 (m, 1H), 7.90 (td, J=7.78, 1.76 Hz, 1H), 8.11 (d, J=8.03 Hz, 1H), and 8.84 (d, 1H).

reactant | ethyl 5-(pyridin-2-yl)isoxazole-3-carboxylate | 0.972 mmol, 212 mg | N1=C(C=CC=C1)C1=CC(=NO1)C(=O)OCC | C11H10N2O3
reactant | N-bromosuccinimide | 2.43 mmol, 432 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 4-bromo-5-(pyridin-2-yl)isoxazole-3-carboxylate | 0.672 mmol, 0.217 g, 69% yield | BrC=1C(=NOC1C1=NC=CC=C1)C(=O)OCC | C11H9BrN2O3
